US03947470
When 3-(4-hydroxybenzoyl)-2-phenylbenzofuran is reacted with 3-dimethylaminopropyl chloride by the procedure described in Example 1, 3-[4-(3-dimethylaminopropoxy)benzoyl]-2-phenylbenzofuran is obtained.

reactant | 3-(4-hydroxybenzoyl)-2-phenylbenzofuran | OC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1 | C21H14O3
reactant | 3-dimethylaminopropyl chloride | CN(CCCCl)C | C5H12ClN
product | 3-[4-(3-dimethylaminopropoxy)benzoyl]-2-phenylbenzofuran | CN(CCCOC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1)C | C26H25NO3
